US05852017
a) N-(5-Chloro-2-nitrophenyl)glycine
25 g (0.13 mol) of 2,4-dichloro-1-nitrobenzene, 19.5 g (0.26 mol) of glycine and 18 g (0.13 mol) of potassium carbonate were heated in 200 ml of dimethylformamide at 120° C. for 3 h. The mixture was then poured into ice-water, acidified with 1M hydrochloric acid and extracted with ethyl acetate. The organic phase was dried and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (mobile phase: toluene/acetone/acetic acid=20:10:1) to yield 19.7 g (66%) of the product. Melting point 147°-148° C.

reactant | 2,4-dichloro-1-nitrobenzene | 0.13 mol, 25 g | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | glycine | 0.26 mol, 19.5 g | NCC(=O)O | C2H5NO2
reactant | potassium carbonate | 0.13 mol, 18 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N-(5-Chloro-2-nitrophenyl)glycine | 19.7 g, 66% | ClC=1C=CC(=C(C1)NCC(=O)O)[N+](=O)[O-] | C8H7ClN2O4
